Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
Hepatitis, RUQ pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ hx ETOH misuse, recent hepatitis A infection (___), 
schizoaffective disorder. She presented to ___ with 
abdominal pain, inability to take PO, new jaundice, melena. She 
was admitted to ___, and is now transferred to ___ for 
further evaluation.  
 Her course began ___, when she presented to ___ with 
abdominal pain, inability to tolerate PO, and dark tarry stools. 
By report, she was admitted to the ICU for GI bleeding, where 
she received IV octreotide and PPI. For her abdominal pain, she 
had CT scan that showed ? colitis, for which she was treated 
with flagyl. RUQ showed "fatty infiltrate." She required 2u 
PRBCs for acute anemia. GI was consulted; EGD showed ___ D 
esophagitis; gastritis AVM vs small ulcer which was clipped; no 
varices on this exam." Octreotide was stopped; once stable, she 
was discharged home with PPI and levofloxacin/metronidazole PO.  

 She had follow up with PCP this week; she complained of 
abdominal pain, nausea and nbnb emesis, and was found on exam to 
be jaundiced. She was sent to ___ for further eval, 
where she disclosed ongoing alcohol use. Her labs then showed 
bili 11.6 (mostly indirect), AST 140s, ALT 75. INR 2.2, cr 0.4. 
Given abdominal pain was focal to RUQ, CTAP was obtained and 
showed ascites; however, no paracentesis was performed. She was 
empirically covered with pip-tazo. ___ providers consulted 
surgery for ? cholecystitis vs cholangitis, who diagnosed the 
patient with "acute liver failure" and advised transfer to ___ 
for further care. GI was consulted and  
 Upon arrival to the floor, she reports feeling somewhat shocked 
and scared by her recent hospital issues. She reports persistent 
RUQ pain since prior to her first ___. It 
is constant, throbbing, does not change with time of day / 
position / food. She reports feeling chills; she has a 
persistent baseline cough (unchanged), no URI symptoms, 
abdominal pain as described, and denies dysuria. She reports 
loose stools since starting lactulose.  
 Regarding substance abuse, she reports her heavy drinking began 
on her ___ birthday with binge drinking. She's been sober 
several times for a few weeks to months at a time, longest is 
around 10 months during her ___ pregnancy. She was unable to 
stay sober during other pregnancies. She has remote hx of 
cocaine and marijuana use but never IVDU. She continued to drink 
1 pint of Vodka per day prior to presenting to ___ for her 
most recent admission. She recognizes the severity of her 
condition and that it will be fatal if she does not discontinue 
drinking.  
 
 ============================  
REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, sweats, weight loss, 
dyspnea, chest pain, abdominal pain, constipation, bloody or jet 
black stools, dysuria, rash, paresthesias, and weakness.  

 
Past Medical History:
-- alcohol abuse  
 -- recent Hepatitis A infection (___)  
 -- polysubstance abuse  
 -- schizoaffective disorder.  
 -- childbirth x3  
 -- tubal ligation  

 
Social History:
___
Family History:
Non contributory
 
Physical Exam:
Admission Exam
VITALS: 98.1 ___ 18 100/ra  
 Genl: mildly uncomfortable due to abdominal pain, no distress  
 HEENT: +icterus, PERRLA, MMM, jaundice of buccal mucosa, 
otherwise no OP lesions  
 Neck: no JVP, no LAD  
 Cor: RRR NMRG  
 Pulm: no incr WOB, CTAB  
 Abd: soft, liver edge is palpable in RUQ and ttp, otherwise nt. 
mild-mod ascites. dressing in place near R paracolic gutter, 
presumably from prior para.  
 Neuro: AOx3, no focal sensory or motor deficits in bilat ___  

 MSK: ___ with 2+ symmetric edema to mid shin, 2+ distal 
pulses  
Skin: no obvious rashes or lesions on torso, UEs, ___  

___ exam:
-Expired
 
Pertinent Results:
===============
ADMISSION LABS:
===============
___ 12:35AM BLOOD WBC-17.6* RBC-2.63* Hgb-8.6* Hct-25.3* 
MCV-96 MCH-32.7* MCHC-34.0 RDW-16.6* RDWSD-57.3* Plt ___
___ 12:35AM BLOOD ___ PTT-37.8* ___
___ 12:35AM BLOOD Glucose-182* UreaN-7 Creat-0.4 Na-136 
K-4.0 Cl-107 HCO3-22 AnGap-11
___ 12:35AM BLOOD ALT-53* AST-146* LD(LDH)-186 AlkPhos-458* 
TotBili-10.5* DirBili-8.2* IndBili-2.3
___ 12:35AM BLOOD Calcium-8.2* Phos-2.2* Mg-1.9 Iron-45
___ 12:35AM BLOOD calTIBC-95* VitB12-1820* Ferritn-978* 
TRF-73*

==================
PERTINENT RESULTS:
==================
Ultrasound Abdomen & RUQ w/ Doppler ___:
1. Cirrhotic liver with sequela of portal hypertension including 
small volume ascites. 
2. Patent portal venous system, though with mainly reversed 
flow, with 
intermittent slow to and fro flow seen within the main portal 
vein. 
3. Gallbladder sludge. 

MRCP ___:
1.  Mild central intrahepatic duct dilation with mild 
cholangitis.  No 
obstructing stone or mass.  No focal fluid collections. 
2.  Moderate hepatomegaly and mild hepatic steatosis.  
Heterogeneous 
enhancement of the hepatic parenchyma is likely due in part to 
known acute 
hepatitis. 
3.  Gallbladder sludge. 
4.  Small pleural effusions with adjacent atelectasis. 

CT head w/o Contrast ___:
No acute intracranial abnormality on noncontrast head CT.  
Specifically no 
intracranial hemorrhage. 

CXR ___:
Comparison to ___.  The feeding tube is now in correct 
position. 
The right pleural effusion has increased.  Lung volumes have 
decreased. idespread bilateral parenchymal opacities are 
developed, likely reflecting 
multifocal pneumonia.  Moderate cardiomegaly and retrocardiac 
atelectasis is present. 

Transthoracic Echocardiogram ___:
The left atrial volume index is mildly increased. Normal left 
ventricular wall thickness, cavity size, and regional/global 
systolic function (biplane LVEF = 60 %). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). Doppler parameters are most consistent with 
normal left ventricular diastolic function. The right 
ventricular cavity is mildly dilated with normal free wall 
contractility. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. The tricuspid valve leaflets are mildly 
thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Normal biventricular regional/global systolic 
function. No significant valvulopathies visualized.  

RUQ Ultrasound ___:
1.  Stable mild dilation of the CBD.  No intrahepatic biliary 
ductal dilation. 
2.  No significant change in heterogeneous appearance of the 
liver, consistent with known hepatitis. 
3.  Patent main portal pain vein with turbulent flow. 
4.  Sludge in a partly distended gallbladder. 
5.  Small volume ascites and small right pleural effusion, 
similar in 
appearance to recent MRI. 
  

CT Abdomen/Pelvis w/ Contrast ___:
1. Hepatomegaly with heterogeneous enhancement, likely related 
to hepatitis. 
2. No evidence of cholecystitis or cholangitis. 
3. Intra abdominal varices. 
4. Moderate abdominal ascites. 
5. Diffuse anasarca. 
6. Please see dedicated chest CT report for detailed intra 
thoracic findings. 

CT Chest w/ Contrast ___:
Possible right neck hematoma with pseudoaneurysm versus active 
bleeding in the right neck Multifocal pneumonia.  Right pleural 
effusion.  Cardiomegaly. Extensive ground-glass opacities as 
described above may reflect additional sites of pneumonia, ARDS 
or possibly hemorrhage.  

RUQ Ultrasound ___:
  
1. Similar appearance of the heterogenous liver without focal 
lesion 
identified. 
2. Patent main portal vein with reversed flow and increased 
arterial flow 
consistent with portal hypertension. 
3. Sludge and possibly tiny gravel-like stones in a nondistended 
gallbladder. 
4. Mild volume ascites and right pleural effusion. 

CT Abd/Pelvis w/o Contrast ___:
1. Unchanged hepatomegaly with a slightly heterogeneous 
appearance to the 
liver parenchyma, likely related to hepatitis. 
2. Small amount of simple ascites layering in the pelvis. 
3. No acute infectious abnormality is identified to explain the 
patient's 
symptoms. 

CT Chest w/o Contrast ___:
1.  Significant internal level improvement in the multifocal 
pneumonia, as 
described above.  Minimal opacities persist in the lower lobes.  
No new 
pneumonia is identified. 
2.  Small bilateral pleural effusions and associated 
atelectasis. 
3.  Unchanged mediastinal lymphadenopathy, which is presumably 
reactive. 

CT Head w/o Contrast ___:
1.  New large right subdural hematoma measuring up to 2.3 cm in 
greatest 
thickness.  Associated 1.6 cm leftward shift of normally midline 
structures, with mass effect upon the ventricles and partial 
effacement of the suprasellar cistern. 
2.  Partial effacement of the suprasellar cistern, with medial 
displacement of the right temporal lobe, is concerning for uncal 
herniation. 
3.  No acute calvarial fracture detected.  A comminuted right 
nasal bone 
fracture is present. 

CT Head w/o Contrast ___:
1.  Post right craniotomy with evacuation of the large right 
subdural 
hematoma.  Postsurgical changes and residual blood products are 
described 
above. 
2.  Persistent effacement of the suprasellar cistern, with 
medial displacement of the right temporal lobe, concerning for 
uncal herniation.  Persistent 1.4 cm leftward shift of normally 
midline structures. 
3.  New blood products layering within the left lateral 
ventricle. 
ATTENDING NOTE:  There is loss of gray-white differentiation in 
right 
hemisphere which indicates evolving infarct.  Consider follow up 
or MRI  to further evaluate, as clinically indicated. 
 
==============
PERTINENT MICRO
===============
___ 3:52 am Mini-BAL

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Final ___:    NO GROWTH, <1000 
CFU/ml. 

   LEGIONELLA CULTURE (Final ___:    NO LEGIONELLA 
ISOLATED. 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Final ___: 
      YEAST. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED. 


   NOCARDIA CULTURE (Preliminary):    NO NOCARDIA ISOLATED. 

===============
DISCHARGE LABS:
===============
Expired
 
Brief Hospital Course:
Ms. ___ is a ___ year old female history of 
alcohol abuse and recent hepatitis A infection (___), 
schizoaffective disorder, and recent diagnosis of alcoholic 
hepatitis, who presented to ___ as a transfer from ___ 
with alcoholic hepatitis. She subsequently developed severe ARDS 
and hypoxemic respiratory failure requiring paralysis, septic 
shock requiring vasopressors, and acute renal failure requiring 
CRRT. She improved significantly from these illnesses, though 
her liver disease remained significant with a MELD-Na of 38. She 
had also developed toxic-metabolic encephalopathy in the setting 
of her prolonged critical illness. She fell on ___ with 
resultant subdural hematoma. She had rapid deterioration of her 
neurologic exam, with a lack of brain stem reflexes by the time 
of neurosurgical intervention. She underwent craniotomy and 
evacuation of subdural hematoma, but her neurologic exam 
remained poor despite this. She ultimately progressed to brain 
death and died on ___.

==============
ACUTE ISSUES
==============

# Hypoxemic respiratory failure in the setting of ARDS: The 
patient triggered for hypoxemia and tachypnea on the medicine 
service on ___, and was subsequently transferred to the MICU, 
where she was intubated and sedated. Initial CXR consistent with 
ARDS, and as a result the patient was started on lung-protective 
ventilation. An esophageal balloon was placed to determine ideal 
PEEP settings. Neuromuscular blockade was used for 48 hrs for 
severe ARDS. She was treated with broad-spectrum antibiotics. A 
mini-BAL was performed which was sterile. The patient was 
extubated on ___ following improvement in mental status and 
respiratory mechanics. She was weaned to room air following 
extubation.

# Septic Shock: Patient was hypotensive requiring placement of 
central venous cathether with pressor infusion. She was treated 
with broad spectrum antibiotics and her vasopressor requirement 
ultimately resolved.
 
#Acute renal failure: Patient became anuric while in the MICU, 
secondary to acute tubular necrosis in the setting of shock. 
Nephrology was consulted, and the patient was initiated on CVVH 
after placement of dialysis catheter. CVVH was discontinued on 
___ when the patient was extubated, with plan to pursue 
intermittent hemodialysis. The patient tolerated a session of 
intermittent hemodialysis well on ___. 

# Alcoholic Hepatitis: MDF on admission was ___, Child ___ C. 
Acetaminophen, viral hepatitis labs negative, autoimmune 
hepatitis titers within normal limits. EGD was performed without 
evidence of varices. Steroids were held upon admission and were 
not started upon MICU transfer out of concern for infection / 
sepsis. Nutrition was consulted, and the patient was maintained 
on tube feeds while intubated and sedated. She was continued on 
thiamine and multivitamin, with rifaximin and lactulose to 
prevent hepatic encephalopathy. She had significant 
leukocytosis, likely due to alcoholic hepatitis, as her cultures 
were all negative.

# Fall Resulting in Subdural Hematoma: Patient attempted to exit 
bed in the late afternoon on ___ without assistance, resulting 
in a fall. Patient was found down at 17:20 by nursing, 
apparently struck the front of her face, and was noted to have 
bleeding from her upper lip and nose (Dobhoff had been displaced 
during the fall). Upon initial neurologic examination, patient 
was found to be neurologically intact, including cranial nerve 
and strength examination. Obvious injuries included hematomas on 
her bilateral knees and bleeding from the upper lip. The family 
was informed of the initial event. She was continuously observed 
and approximately 30 minutes later was noted to be unresponsive 
to verbal or tactile stimuli. Pupils were 4mm and reactive 
bilaterally at that time. A stat non-contrast head CT was 
ordered which demonstrated a large subdural hematoma with 
midline shift. The patient was intubated for airway protection 
and neurosurgery was urgently consulted. The patient was 
administered 2 units of FFP and 10mg IV vitamin K. Prior to 
surgery, her neurologic exam was notable for fixed and dilated 
pupils, and her family was counseled that surgery was unlikely 
to meaningfully improve her neurologic exam. The patient 
underwent R-sided craniotomy, with evacuation of subdural. 
Midline shift persisted post-operatively, and pupils remained 
fixed. A family meeting was held on ___ with discussion of the 
prior day's events, surgical outcome, and grim prognosis. The 
patient's family expressed wishes to continue with supportive 
therapy, and as a result patient was transfused pRBCs for 
ongoing bleeding at the site of the craniotomy, as well as an 
additional 5mg IV vitamin K for coagulopathy. By the afternoon 
of ___, physical examination was concerning for lack of 
brainstem reflexes, though she intermittently breathed above the 
ventilator. Multiple family meetings were held to explain the 
grave prognosis and elicit concerns. On ___, pt lacked all 
brainstem reflexes. A breath death scan was performed on ___ 
which was demonstrated no cerebral blood flow. An apnea test was 
consistent with brain death. The patient was terminally 
extubated on ___ at 2300, with time of death pronounced on 
2334. Condolences were offered to the patient's family, who were 
at bedside at the time death was pronounced.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. TraZODone 150-300 mg PO QHS:PRN insomnia 
4. Sertraline 100 mg PO DAILY 
5. ZIPRASidone Hydrochloride 80 mg PO DAILY 
6. Albuterol Inhaler ___ PUFF IH Q4H:PRN dyspnea, wheeze 
7. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
dyspepsia 
8. Lactulose 15 mL PO BID 
9. Pantoprazole 40 mg PO Q12H 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
-Alcoholic hepatitis
-Severe ARDS
-Septic shock
-Acute renal failure
-Subdural hematoma with herniation
 
Discharge Condition:
Expired
 
Discharge Instructions:
N/A
 
Followup Instructions:
___